US04447441
To a solution of 4-(3-[3-(2,2,2-trifluoroethyl)thioureido]pyrazol-1-ylmethyl)benzamide (180 mg.) in EtOH saturated with ammonia (5 ml.) was added yellow mercuric oxide (380 mg.). The mixture was stirred at room temperature for 17 hours. The mixture was centrifuged, then the supernatant liquor was evaporated in vacuo to give 4-[3-(2-[2,2,2-trifluoroethyl]guanidino)pyrazol-1-ylmethyl]benzamide, m.p. 192° (from EtOH/petroleum ether (b.p. 60°-80°)).

reactant | 4-(3-[3-(2,2,2-trifluoroethyl)thioureido]pyrazol-1-ylmethyl)benzamide | 180 mg | FC(CNC(NC1=NN(C=C1)CC1=CC=C(C(=O)N)C=C1)=S)(F)F | C14H14F3N5OS
reactant | ammonia | 5 ml | N | H3N
solvent | EtOH | CCO | C2H6O
product | 4-[3-(2-[2,2,2-trifluoroethyl]guanidino)pyrazol-1-ylmethyl]benzamide | FC(CN=C(NC1=NN(C=C1)CC1=CC=C(C(=O)N)C=C1)N)(F)F | C14H15F3N6O
